US20010056109A1
(d) 4-[3-(4-Fluorophenyl)-3H-inden-1-yl]-1H-imidazole
3-(4-Fluorophenyl)-1-(1-trityl-1H-imidazol-4-yl)indan-1-ol (2.22 g) in 22 ml of a 2 M HCl solution was heated at 70° C. for 2 hr. Water was added. The mixture was extracted with methylene chloride. Then methylene chloride phase was extracted with 2 M HCl solution. All combined water layers were made basic and extracted with methylene chloride. The organic phase was washed with water and dried. The solvent was removed under reduced pressure. The crude 4-[3-(4-fluorophenyl)-3H-inden-1-yl]-1H-imidazole which was the mixture of isomers (the ratio 73:27) was purified by flash chromatography (elution with a dichloromethane-methanol gradient).

reactant | 3-(4-Fluorophenyl)-1-(1-trityl-1H-imidazol-4-yl)indan-1-ol | 2.22 g | FC1=CC=C(C=C1)C1CC(C2=CC=CC=C12)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H29FN2O
reactant | HCl | 2 M | Cl | ClH
solvent | Water | O | H2O
product | 4-[3-(4-Fluorophenyl)-3H-inden-1-yl]-1H-imidazole | FC1=CC=C(C=C1)C1C=C(C2=CC=CC=C12)C=1N=CNC1 | C18H13FN2
